US04052393
4-(Methylthio)pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester
2.76 g. of 4-chloropyrazolo[1,5-a]quinoxaline-3-carboxylic acid ethyl ester are heated with 0.71 g. of the sodium salt of methyl mercaptan in dimethylformamide. After cooling, the reaction mixture is poured into water. The product 4-(methylthio)pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester is filtered under suction and crystallized from ethanol as white needles, m.p. 97°-98°.

reactant | 4-chloropyrazolo[1,5-a]quinoxaline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN2C1C(=NC1=CC=CC=C21)Cl | C13H10ClN3O2
reactant | sodium | [Na] | Na
reactant | methyl mercaptan | CS | CH4S
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(Methylthio)pyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester | CSC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)OCC | C14H13N3O2S
